US06787536B2
2-(R)-{4-[5-(4-Cyanophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-N-hydroxy-3-methylbutyramide
Prepared according to the method for the preparation of 2-(R)-{4-[5-(4-fluorophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-N-hydroxy-3-methylbutyramide, from 2-(R)-{4-[5-(4-cyanophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-3-methylbutyric acid (0.070 g), to provide the title compound as a white solid (0.039 g, 53%).

reactant | 2-(R)-{4-[5-(4-fluorophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-N-hydroxy-3-methylbutyramide | FC1=CC=C(C=C1)C=1C=NC(=NC1)N1CCN(CC1)S(=O)(=O)C[C@@H](C(=O)NO)C(C)C | C20H26FN5O4S
reactant | 2-(R)-{4-[5-(4-cyanophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-3-methylbutyric acid | 0.070 g | C(#N)C1=CC=C(C=C1)C=1C=NC(=NC1)N1CCN(CC1)S(=O)(=O)C[C@@H](C(=O)O)C(C)C | C21H25N5O4S
product | 2-(R)-{4-[5-(4-Cyanophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-N-hydroxy-3-methylbutyramide | 0.039 g, 53% | C(#N)C1=CC=C(C=C1)C=1C=NC(=NC1)N1CCN(CC1)S(=O)(=O)C[C@@H](C(=O)NO)C(C)C | C21H26N6O4S
